US05952506
1-Benzyl-4-[6-(hexylcarbamoyloxy)hexylcarbamoyloxy] piperidine (9, R=benzyl)
A stirred suspension of N,N'-carbonyldiimidazole (58.38 g, 0.36 mol) in methylene chloride (250 mL) was treated with a solution of 1-benzyl-4-hydroxypiperidine (57.80 g, 0.30 mol) in the same solvent (200 mL) at RT. The resulting clear solution was stirred for 2 hrs., washed 3 times with water (60 mL), and the organic phase was added into a solution of 6 -aminohexanol (52.8 g, 0.45 mol) in methylene chloride (150 mL). The reaction mixture was kept overnight at RT, washed with water, dried over magnesium sulfate, filtered, and concentrated. Comparative TLC confirmed that the product was identical to the intermediate carbamate prepared according to Example 1. The material was redissolved in methylene chloride (110 mL) and added to a stirred suspension of N,N'-carbonyldiimidazole (53.50 g, 0.33 mol) in the same solvent (250 mL). The resulting solution was kept for 1 hr. at RT, and then mixed with a solution of hexylamine (60 mL, approx. 1.5 eq.) in methylene chloride (60 mL). The reaction mixture was stirred overnight at RT, washed with water, dried over magnesium sulfate, filtered, and evaporated to give waxy, semi-solid residue. The contents of the flask were slurried in t-butyl-methyl ether (200 mL) and the first crop of crystals collected by filtration. Another crop of crystalline product was obtained upon addition of heptane to the filtrate. The product (111.95 g, 80%), m.p. 78-80° C., was identical with the carbamate prepared according to Example 2.

reactant | 1-benzyl-4-hydroxypiperidine | 0.30 mol, 57.80 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | 6 -aminohexanol | 0.45 mol, 52.8 g | NCCCCCCO | C6H15NO
reactant | hexylamine | 60 mL, approx. 1.5 eq. | C(CCCCC)N | C6H15N
reactant | carbamate | C(N)([O-])=O
reactant | t-butyl-methyl ether | 200 mL | C(C)(C)(C)OC | C5H12O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-[6-(hexylcarbamoyloxy)hexylcarbamoyloxy] piperidine | C(C1=CC=CC=C1)N1CCC(CC1)OC(NCCCCCCOC(NCCCCCC)=O)=O | C26H43N3O4
